US08835689B2
5-cyano-2-oxo-5-phenyl-cyclohexane carboxylic acid methyl ester
4-cyano-4-phenyl heptane dicarboxylic acid dimethylester (19.8 g, 68 mmol) was dissolved in dry tetrahydrofuran (480 mL). Potassium tert-butylate (13.2 g, 120 mmol) was then added in portions. During this addition the reaction mixture changed colour to orange. The batch was then boiled for 5 h with reflux. A brown solution was formed during boiling. The reaction mixture was cooled to room temperature overnight. 2.5N acetic acid (230 mL) was slowly added in drops to the reaction mixture with ice cooling. The batch was then mixed with toluol (100 mL), the organic phase separated and washed with saturated NaHCO3 solution (3×100 mL), H2O (3×50 mL) and NaCl solution (1×100 mL). After drying with Na2SO4 the solvent was distilled off in a vacuum. A yellowish solid remained.

reactant | 4-cyano-4-phenyl heptane dicarboxylic acid dimethylester | 68 mmol, 19.8 g | COC(=O)C(CCC(CCC)(C1=CC=CC=C1)C#N)C(=O)OC | C18H23NO4
reactant | Potassium tert-butylate | 120 mmol, 13.2 g | CC(C)(C)[O-].[K+]
reactant | acetic acid | 2.5N, 230 mL | C(C)(=O)O | C2H4O2
reactant | toluol | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 480 mL | O1CCCC1 | C4H8O
product | 5-cyano-2-oxo-5-phenyl-cyclohexane carboxylic acid methyl ester | COC(=O)C1C(CCC(C1)(C1=CC=CC=C1)C#N)=O | C15H15NO3
